US05886014
N-t-Butoxycarbonyl-N-methyl-5-methoxy-2-nitroaniline
A solution of 49.6 g of N-t-butoxycarbonyl-5-methoxy-2-nitroaniline (prepared as described in Preparation 6) in 300 ml of dehydrated dimethylformamide was added, whilst ice-cooling, to a suspension of 12.0 g of sodium hydride (as a 55% w/w dispersion in mineral oil) in 300 ml of dehydrated dimethylformamide, and the resulting mixture was stirred at room temperature for 30 minutes, after which 17.2 ml of methyl iodide were added at room temperature. The reaction mixture was stirred for 1 hour, after which it was allowed to stand overnight at room temperature. It was then concentrated to about one-fifth of its original volume by evaporation under reduced pressure. The concentrate was mixed with ice-water and the resulting aqueous mixture was extracted with ethyl acetate. The extract was washed with water and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous sodium sulfate. On distilling off the solvent, there were obtained 52.1 g of the title compound, melting at 122°-124° C.

reactant | N-t-butoxycarbonyl-5-methoxy-2-nitroaniline | 49.6 g | C(C)(C)(C)OC(=O)NC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C12H16N2O5
reactant | sodium hydride | 12.0 g | [H-].[Na+]
reactant | methyl iodide | 17.2 ml | CI | CH3I
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | N-t-Butoxycarbonyl-N-methyl-5-methoxy-2-nitroaniline | 52.1 g | C(C)(C)(C)OC(=O)N(C1=C(C=CC(=C1)OC)[N+](=O)[O-])C | C13H18N2O5
